US07326729B2
tert-Butyl-thiophene sulfonamide available from Preparative Example 16.1 Step A (164 mg, 050 mmol) was treated with potassium carbonate (700 mg. 5 mmol) and iodoethane (0.4 mL 5 mmol) in acetone and refluxed for 1.5 d. The mixture was filtered, and the solid material was washed with methylene chloride. The combined filtrated and washing were concentrated purified by flash column chromatography eluting with 0 to 30% methylene chloride in hexanes. Removal of solvents afforded the ethyl-tert-butyl-sulfonamide (151 mg, 85%).

reactant | tert-Butyl-thiophene sulfonamide | C(C)(C)(C)C1=C(SC=C1)S(=O)(=O)N | C8H13NO2S2
reactant | potassium carbonate | 5 mmol, 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 5 mmol, 0.4 mL | ICC | C2H5I
reactant | acetone | CC(=O)C | C3H6O
product | ethyl-tert-butyl-sulfonamide | 151 mg, 85% | C(C)NS(=O)(=O)C(C)(C)C | C6H15NO2S
